US08865725B2
A solution of 2-(4-fluoro-phenoxymethyl)-6-(4-fluoro-phenyl)-6H-imidazo[1,2-c]pyrimidin-5-one (0.1 g, 0.28 mmol) in EtOH (25 mL) was hydrogenated in a H-cube reactor (1 mL/min, 30 mm Raney nickel cartridge, 35° C., full hydrogen mode, 3 cycles) and then (1 mL/min, 30 mm Raney nickel cartridge, 40° C., full hydrogen mode, 3 cycles). The solvent was evaporated in vacuo and the crude product was purified by flash column chromatography (silica; AcOEt in DCM with a gradient of 50/50 to 75/25). The desired fractions were collected and the solvents evaporated in vacuo to yield 2-(4-fluoro-phenoxymethyl)-6-(4-fluoro-phenyl)-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one (45 mg, 45% yield). 1H NMR (500 MHz, CDCl3) δ ppm 3.29 (t, J=6.6 Hz, 2H), 4.00 (t, J=6.6 Hz, 2H), 4.98 (s, 2H), 6.92-7.01 (m, 4H), 7.10-7.18 (m, 2H), 7.29-7.36 (m, 2H), 7.56 (s, 1H).

reactant | 2-(4-fluoro-phenoxymethyl)-6-(4-fluoro-phenyl)-6H-imidazo[1,2-c]pyrimidin-5-one | 0.28 mmol, 0.1 g | FC1=CC=C(OCC=2N=C3N(C(N(C=C3)C3=CC=C(C=C3)F)=O)C2)C=C1 | C19H13F2N3O2
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 2-(4-fluoro-phenoxymethyl)-6-(4-fluoro-phenyl)-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one | 45 mg, 45% yield | FC1=CC=C(OCC=2N=C3N(C(N(CC3)C3=CC=C(C=C3)F)=O)C2)C=C1 | C19H15F2N3O2
